US09238639B2
Methyl(4-chloro-7-fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.264 mL), methyl(4-chloro-7-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate (116 mg), (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (89 mg) and THF (4.0 mL) was added ADDP (213 mg) at room temperature. The mixture was stirred at room temperature under nitrogen atmosphere for 1 h. The mixture was concentrated in vacuo. To the residue was added IPE and the precipitate was filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) to give the title compound (172 mg).

reactant | tri-n-butylphosphine | 0.264 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl(4-chloro-7-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate | 116 mg | COC(CC1=CSC2=C1C(=CC(=C2F)O)Cl)=O | C11H8ClFO3S
reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 89 mg | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | ADDP | 213 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | Methyl(4-chloro-7-fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 172 mg | COC(CC1=CSC2=C1C(=CC(=C2F)OCC=2C(=NC(=CC2)C(F)(F)F)C)Cl)=O | C19H14ClF4NO3S
